US08664217B2
Hydrazine hydrate (1.17 ml, 24 mmol) was added to a methanol solution (60 ml) of 7-[3-(1,3-dioxo-1,3-dihydroisoindol-2-yl)propoxy]-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione (2.70 g, 6.0 mmol), and stirred while heating under reflux for 2 hours. The reaction mixture was concentrated under reduced pressure. A 1N-sodium hydroxide aqueous solution was added to the residue, and stirred for 30 minutes, and extraction with dichloromethane was performed. The organic layer was washed with water and a saturated sodium chloride aqueous solution, in this order. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to thereby obtain 1.48 g (yield: 77%) of 7-(3-aminopropoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione as a colorless oil.

reactant | Hydrazine hydrate | 24 mmol, 1.17 ml | O.NN
reactant | 7-[3-(1,3-dioxo-1,3-dihydroisoindol-2-yl)propoxy]-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 6.0 mmol, 2.70 g | O=C1N(C(C2=CC=CC=C12)=O)CCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | C25H27N3O5
solvent | methanol | 60 ml | CO | CH4O
product | 7-(3-aminopropoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 1.48 g, yield: 77% | NCCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | C17H25N3O3
